US07585880B2
1-[4-(hydroxymethyl)phenyl]butan-1-ol
4-(1-Hydroxybutyl)benzaldehyde (4.51 g, 25.3 mmol) was dissolved in a mixture of methanol (10 mL) and tetrahydrofuran (20 mL), and sodium borohydride (0.479 g, 12.7 mmol) was added with stirring under ice-cooling. The mixture was stirred at the same temperature for 1.5 hr. Water and 1N hydrochloric acid were added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=30:70-80:20) to give the title compound (4.32 g, yield 95%) as a colorless oil.

reactant | 4-(1-Hydroxybutyl)benzaldehyde | 25.3 mmol, 4.51 g | OC(CCC)C1=CC=C(C=O)C=C1 | C11H14O2
reactant | sodium borohydride | 12.7 mmol, 0.479 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[4-(hydroxymethyl)phenyl]butan-1-ol | 4.32 g, yield 95% | OCC1=CC=C(C=C1)C(CCC)O | C11H16O2
